US04452809
Trans-4-(2,3-dimethylphenoxy)-1-phenylmethyl-3-pyrrolidinol
A mixture of 17.5 g. (0.10 mole) of 1-benzyl-3,4-epoxypyrrolidine, 18.3 g. (0.15 mole) of 2,3-dimethylphenol and 2 drops of concentrated hydrochloric acid was heated at 120° C. under a nitrogen atmosphere overnight. The reaction mixture was dissolved in methylene chloride and washed with four 100-ml portions of 5% sodium hydroxide and once with water. The methylene chloride layer was dried over anhydrous sodium sulfate-potassium hydroxide and concentrated to give 28.6 g. of dark oil as residue. This oil was chromatographed on 600 g. of silica gel and the product was eluted with an acetone-benzene solution. The appropriate fractions were concentrated to give an oil which crystallized upon standing. This solid was recrystallized from ligroin to give 9.1 g. (31%) of white solid, m.p. 100°-4° C.

reactant | 1-benzyl-3,4-epoxypyrrolidine | 0.10 mole | C(C1=CC=CC=C1)N1CC2C(C1)O2 | C11H13NO
reactant | 2,3-dimethylphenol | 0.15 mole | CC1=C(C=CC=C1C)O | C8H10O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-4-(2,3-dimethylphenoxy)-1-phenylmethyl-3-pyrrolidinol | CC1=C(O[C@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=CC=C1C | C19H23NO2
